US04752645
(D) 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one
A 25% (by weight) sodium methoxide in methanol solution (14.2 ml; 625 mmole; 4.6 eq.; d=0.945) and α-methyl-[2-(2-amino-5-trifluoromethylphenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (5.96 g; 13.56 mmole) in methanol (30 ml) and dry dimethylformamide (35 ml) were refluxed (~95° C.) overnight. 1N Hydrochloric acid was added with stirring producing a white precipitate that was collected by suction-filtration, washed with water (three times) and dried in vacuo giving 4.88 g of a white solid which contained an impurity as shown by NMR. The impurity disappeared after the sample stood overnight.

reactant | sodium methoxide | C[O-].[Na+]
reactant | α-methyl-[2-(2-amino-5-trifluoromethylphenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 13.56 mmole, 5.96 g | CC(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC(=C1)C(F)(F)F)N)C1=CC=C(C=C1)OC | C22H24F3NO5
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 625 mmole, 14.2 ml, 4.6 eq. | CO | CH4O
product | 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 4.88 g | COC(=O)C1(C(NC2=C(CC1C1=CC=C(C=C1)OC)C=C(C=C2)C(F)(F)F)=O)C | C21H20F3NO4
